US09314464B2
Intermediate. 2-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline
A mixture of Intermediate 2-(2-fluoro-3-nitrophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (500 mg), 10% palladium on carbon (50 mg) and ethyl acetate (20 ml) was stirred under 1 atmosphere of hydrogen for 16 h. The mixture was sparged with nitrogen and filtered. The filtrate was concentrated to provide the title compound, which was used without further purification. MS m/z 237.1 (M+1).

reactant | 2-(2-fluoro-3-nitrophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 500 mg | FC1=C(C=CC=C1[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-fluoro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | FC1=C(N)C=CC=C1B1OC(C(O1)(C)C)(C)C | C12H17BFNO2
